US07465731B2
To a solution of ethyl (2E)-3-(6-chloro-3-pyridyl)acrylate (3.5 g) in dioxane (70 mL) was added palladium(II) acetate (371 mg) and 2′-(dicyclohexylphosphino)-N,N-dimethyl-2-biphenylamine (110 mg) and cesium carbonate (583 mg), and (3R)-1-(4-chlorobenzoyl)-3-pyrrolidinamine (4.09 g). The mixture was heated at 90° C. for 3 hours. The resulting mixture was diluted with AcOEt, and the precipitate was removed by filtration. The filtrate was concentrated and residual brown oil was purified by purified by silica gel column chromatography eluted with AcOEt and hexane (1:4)-AcOEt to give ethyl (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (2.16 g) as dark yellow form.

reactant | ethyl (2E)-3-(6-chloro-3-pyridyl)acrylate | 3.5 g | ClC1=CC=C(C=N1)/C=C/C(=O)OCC | C10H10ClNO2
reactant | cesium carbonate | 583 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3R)-1-(4-chlorobenzoyl)-3-pyrrolidinamine | 4.09 g | ClC1=CC=C(C(=O)N2C[C@@H](CC2)N)C=C1 | C11H13ClN2O
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 371 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2′-(dicyclohexylphosphino)-N,N-dimethyl-2-biphenylamine | 110 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
product | ethyl (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 2.16 g | ClC1=CC=C(C(=O)N2C[C@@H](CC2)NC2=CC=C(C=N2)/C=C/C(=O)OCC)C=C1 | C21H22ClN3O3
